US06362177B1
A solution of (S)-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine (0.060 mmol) in CH3CN (1.1 mL) and (piperidinomethyl)polystyrene (2.6-2.8 mmol/g, 30 mg) were added to a solution of benzyl bromide (0.050 mmol) in CH3CN (0.4 mL). The reaction mixture was stirred at 45° C. for 5 h. After the mixture was cooled to room temperature, the resin was removed by filtration and the filtrate was concentrated. The residue was resolved in CH3CN (1.0 mL) and phenyl isocyanate (0.008 mL, 0.05 mmol) was added. The mixture was stirred at room temperature for 1 h, loaded onto Varian™ SCX column, and washed with CH3OH (15 mL). Product was eluted off using 2 N NH3 in CH3OH (6 mL) and concentrated to afford (S)-1-benzyl-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine (compound No. 239) (9.0 mg, 44%): The purity was determined by RPLC/MS (99%); ESI/MS m/e 406.0 (M++H, C21H22F3N3O2).

reactant | (S)-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine | 0.060 mmol | FC(C=1C=C(C(=O)NCC(=O)N[C@@H]2CNCC2)C=CC1)(F)F | C14H16F3N3O2
reactant | (piperidinomethyl)polystyrene | 30 mg | C1CCNCC1 | C5H11N
reactant | benzyl bromide | 0.050 mmol | C(C1=CC=CC=C1)Br | C7H7Br
reactant | phenyl isocyanate | 0.05 mmol, 0.008 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CH3CN | 1.1 mL | CC#N | C2H3N
solvent | CH3CN | 0.4 mL | CC#N | C2H3N
product | (S)-1-benzyl-3-[N-{3-(trifluoromethyl)benzoyl}glycyl]aminopyrrolidine | C(C1=CC=CC=C1)N1C[C@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H22F3N3O2
